US07544679B2
A mixture of 600 mg (2 mmol) (R/S)-2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid ethyl ester in 8 ml tetrahydrofuran and of 70.0 mg (2 mmol) lithiumhydroxide in 4 ml water was stirred overnight at room temperature. The solvent was evaporated and the residue extracted at pH 1 with ethylacetate to yield 450 mg (81%) (R/S)-2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid, MS (m/e): 367.1 (M−H)−.

reactant | (R/S)-2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid ethyl ester | 2 mmol, 600 mg | C(C)OC(C(CCC)(C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O)O)=O | C22H24N2O5
reactant | lithiumhydroxide | 2 mmol, 70.0 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | (R/S)-2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 450 mg, 81% | OC(C(=O)O)(CCC)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C20H20N2O5
